US20010027196A1
Following the method of Thorand and Krause (J. Org. Chem. 1998, 63, 8551), to a stirred solution of 500 mg (1.50 mmol) 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine in 10 ml dry degassed THF under argon at room temperature were added 211 mg (0.30 mmol) bis(triphenylphosphine)palladium(II) chloride, 10 mg (0.04 mmol) triphenylphosphine, 0.25 ml (2.28 mmol) phenylacetylene and 0.31 ml (2.22 mmol) triethylamine. Stirring was continued for 30 minutes then 3.0 mg (0.02 mmol) copper(I) iodide was added and the reaction mixture stirred for an additional 72 hours at room temperature. The reaction mixture was then concentrated in vacuo. Chromatography (1/4-1/1 ethyl acetate/hexane) afforded 161 mg (35%) 4-furan-2-yl-6-methylsulfanyl-5-phenylethynyl-pyrimidin-2-ylamine as a yellow crystalline solid. EI-MS m/e (%): 307 (M+, 100), 306 ([M—H]+, 52), 230 (38).

reactant | 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine | 1.50 mmol, 500 mg | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
reactant | phenylacetylene | 2.28 mmol, 0.25 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 2.22 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.30 mmol, 211 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.02 mmol, 3.0 mg | [Cu]I
catalyst | triphenylphosphine | 0.04 mmol, 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-furan-2-yl-6-methylsulfanyl-5-phenylethynyl-pyrimidin-2-ylamine | 161 mg, 35% | O1C(=CC=C1)C1=NC(=NC(=C1C#CC1=CC=CC=C1)SC)N | C17H13N3OS
